US08710091B2
5,5-dimethyl-3-[4-nitro-3-(trifluoromethyl)phenyl]-1-{9-[(4,4,5,5,5-pentafluoropentyl)thio]nonyl}imidazolidine-2,4-dione
NaH (at 60%) (44 mg, 1.1 mmole), is added under argon to a solution of 5,5-dimethyl-3-[4-nitro-3-(trifluoromethyl)phenyl]-imidazolidine-2,4-dione (317 mg, 1 mmole) in anhydrous DMF (8 ml). A release of gas accompanies the change in colour of the reaction medium which becomes orange. Stirring is maintained for 1 hour at 23° C. before adding 9-[(4,4,5,5,5-pentafluoropentyl)-thio]nonyl methanesulphonate (prepared according to an experimental protocol described in WO 2005077968) (332 mg, 0.8 mmole). After reaction for 15 hours, the reaction medium is poured into water (25 ml) and extracted with AcOEt (2×25 ml). The organic phases are combined and washed successively with water (25 ml) and salt water (25 ml). After drying over Na2SO4, the organic solution is filtered and concentrated under vacuum. The evaporation residue is purified on a silica column (eluent: CH2Cl2/AcOEt: 1/1 to 0/1). The expected compound is obtained in the form of a pale yellow oil with a yield of 72% (364 mg).

reactant | NaH | 1.1 mmole, 44 mg | [H-].[Na+]
reactant | 5,5-dimethyl-3-[4-nitro-3-(trifluoromethyl)phenyl]-imidazolidine-2,4-dione | 1 mmole, 317 mg | CC1(C(N(C(N1)=O)C1=CC(=C(C=C1)[N+](=O)[O-])C(F)(F)F)=O)C | C12H10F3N3O4
reactant | 9-[(4,4,5,5,5-pentafluoropentyl)-thio]nonyl methanesulphonate | CS(=O)(=O)OCCCCCCCCCSCCCC(C(F)(F)F)(F)F | C15H27F5O3S2
reactant | water | 25 ml | O | H2O
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 5,5-dimethyl-3-[4-nitro-3-(trifluoromethyl)phenyl]-1-{9-[(4,4,5,5,5-pentafluoropentyl)thio]nonyl}imidazolidine-2,4-dione | yield of 72% | CC1(C(N(C(N1CCCCCCCCCSCCCC(C(F)(F)F)(F)F)=O)C1=CC(=C(C=C1)[N+](=O)[O-])C(F)(F)F)=O)C | C26H33F8N3O4S
